US05958942
i) Synthesis of 1,2-dihydro-1-[3-(piperidin-4-ylmethyl)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one dihydrochloride
To a solution prepared by dissolving 3.82 g (9.94 mM) of 1,2-dihydro-1-[3-(1tert-butoxycarbonylpiperidin-4-yl)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 50 ml of ethanol was added 10 ml (122 mM) of 12N-hydrochloric acid and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the reaction mixture was concentrated under reduced pressure and the resulting precipitate was recovered by filtration. The precipitate was rinsed with small amounts of ethanol and ether to provide 2.99 g (yield 84.5%) of the title compound as brown solid.

reactant | 1,2-dihydro-1-[3-(1tert-butoxycarbonylpiperidin-4-yl)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 9.94 mM, 3.82 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN1C(C=2N3C(C=CC=C13)=NC2)=O | C21H28N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,2-dihydro-1-[3-(piperidin-4-ylmethyl)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one dihydrochloride | 2.99 g, yield 84.5% | Cl.Cl.N1CCC(CC1)CCCCN1C(C=2N3C(C=CC=C13)=NC2)=O | InChI=1S/C17H22N4O.2ClH/c22-17-14-12-19-15-5-3-6-16(21(14)15)20(17)11-2-1-4-13-7-9-18-10-8-13;;/h3,5-6,12-13,18H,1-2,4,7-11H2;2*1H
